US04472305
BocDTrp-Leu-MetNH2 (47.5 mmole) was added to a solution of trifluoroacetic acid (230 ml.), dimethylsulfide (260 ml.) and ethanedithiol (20 ml.) with cooling to 0° C. The mixture was allowed to warm to room temperature during one and one half hours, then stripped of volatiles. Attempted crystallization of the residue from ethyl acetate-hexane was unsuccessful, and the mixture was stripped again. The residue was dissolved in methanol-ether. Removal of a small amount (about 300 mg.) of solid and addition of acetic acid to the filtrate afforded HDTrp-Leu-MetNH2 acetate salt in 60% yield (12.6 g., m.r. 154°-160° C.).

reactant | BocDTrp-Leu-MetNH2 | 47.5 mmole | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C(=O)OC(C)(C)C | C27H41N5O5S
reactant | trifluoroacetic acid | 230 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | dimethylsulfide | 260 ml | CSC | C2H6S
solvent | ethanedithiol | 20 ml | C(C)(S)S | C2H6S2
product | HDTrp-Leu-MetNH2 acetate | 60% yield | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N.CC(=O)O | InChI=1S/C22H33N5O3S.C2H4O2/c1-13(2)10-19(22(30)26-18(20(24)28)8-9-31-3)27-21(29)16(23)11-14-12-25-17-7-5-4-6-15(14)17;1-2(3)4/h4-7,12-13,16,18-19,25H,8-11,23H2,1-3H3,(H2,24,28)(H,26,30)(H,27,29);1H3,(H,3,4)/t16-,18+,19+;/m1./s1
